US04647687
3.3 g of 1,2-dichloro-2-cyano-vinyl 2-chloro-2-cyano-vinyl sulphide were dissolved in 20 ml of methylene chloride, 2 g of potassium carbonate were added, and 2.15 g of sulphuryl chloride in 10 ml of dichloroethane were added dropwise at room temperature. The mixture was stirred at 70° C. for 12 hours and filtered, the filtrate was washed with water and concentrated and the resulting oil was chromatographed. 1.7 g of bis-(1,2-dichloro-2-cyano-vinyl) sulphide were obtained as an oil, which was identical to the product from Example 8.

reactant | 1,2-dichloro-2-cyano-vinyl 2-chloro-2-cyano-vinyl sulphide | 3.3 g | ClC(=CSC(=C(C#N)Cl)Cl)C#N | C6HCl3N2S
reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
reactant | sulphuryl chloride | 2.15 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | dichloroethane | 10 ml | ClC(C)Cl | C2H4Cl2
product | bis-(1,2-dichloro-2-cyano-vinyl) sulphide | 1.7 g | ClC(=C(C#N)Cl)SC(=C(C#N)Cl)Cl | C6Cl4N2S
